US04055595
A mixture of (±)-2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionic acid (0.36 g.), N aqueous sodium hydroxide (1.0 ml.) and water (3.0 ml.) is stirred until no more of the acid dissolves. The mixture is filtered, the filtrate is washed with ether and evaporated in vacuo. The residue is crystallised from a mixture of ethyl acetate and light petroleum (b.p. 60°-80° C.) to give (±)-sodium 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionate (0.3 g.) m.p. 271°-272° C. (decomposition).

reactant | (±)-2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionic acid | 0.36 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C(F)(F)F)C)C=C1 | C17H14ClF3O3
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
solvent | water | 3.0 ml | O | H2O
product | (±)-sodium 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionate | 0.3 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)[O-])(C(F)(F)F)C)C=C1.[Na+] | InChI=1S/C17H14ClF3O3.Na/c1-16(15(22)23,17(19,20)21)24-10-11-2-4-12(5-3-11)13-6-8-14(18)9-7-13;/h2-9H,10H2,1H3,(H,22,23);/q;+1/p-1
